US07220777B2
A solution of 3-bromo-1-propanol (0.685 g, 4.93 mmol), 4-nitroguaiacol (1 g, 5.91 mmol) and tributylphosphine (1.49 g, 7.36 mmol) in 20 ml tetrahydrofuran was treated with 1,1′-(azodicarbonyl)dipiperidine (1.49 g, mmol), added portionwise over 5 mins, and the resulting mixture stirred for 16 hrs. The solvent was removed in vacuo and the residues partitioned between ethyl acetate (25 ml) and 0.5 M HCl (25 ml). The organic phase was washed with 0.5 M NaOH (4×25 ml), water (25 ml) and saturated brine (25 ml), then dried and concentrated to a pale yellow solid. This was purified by flash chromatography on silica gel (eluting with ethyl acetate-hexane) to give 1-(3-bromo-propoxy)-2-methoxy-4-nitro-benzene as a white solid (300 mg, 21%);

reactant | 3-bromo-1-propanol | 4.93 mmol, 0.685 g | BrCCCO | C3H7BrO
reactant | 4-nitroguaiacol | 5.91 mmol, 1 g | [N+](=O)([O-])C=1C=C(C(=CC1)OC)O | C7H7NO4
reactant | tributylphosphine | 7.36 mmol, 1.49 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.49 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(3-bromo-propoxy)-2-methoxy-4-nitro-benzene | 300 mg, 21% | BrCCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C10H12BrNO4
